US08389524B2
(2R)-2-({4-[(2,3-Dihydro-1,4-benzodioxin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (60 mg, 0.199 mmol) and 2,3-dihydro-1,4-benzodioxin-6-carbaldehyde (commercially available) (29.4 mg, 0.179 mmol) in chloroform (2 ml) and methanol (0.100 ml) at rt under nitrogen was treated with sodium triacetoxyborohydride (127 mg, 0.597 mmol) and stirred for 90 min, LC-MS after 90 min showed reaction complete. This was treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound (46.8 mg, 58.4%) as a yellow gum.

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | sodium triacetoxyborohydride | 0.597 mmol, 127 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | (2R)-2-({4-[(2,3-Dihydro-1,4-benzodioxin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 46.8 mg, 58.4% | Cl.O1CCOC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C24H27N5O4.ClH/c30-22-4-2-19-24-28(22)15-18(29(24)23(31)13-26-19)14-27-7-5-17(6-8-27)25-12-16-1-3-20-21(11-16)33-10-9-32-20;/h1-4,11,13,17-18,25H,5-10,12,14-15H2;1H/t18-;/m1./s1
